US07786130B2
3-(isoquinolin-1-ylamino)-5-(6-(methylamino)pyrazin-2-yl)pyridin-2(1H)-one I.1
tert-butyl 6-(5-(isoquinolin-1-ylamino)-6-methoxypyridin-3-yl)pyrazin-2-ylmethylcarbamate (75 mg, 0.16 mmol, 1 eq.) and pyridinium hydrochloride (378 mg, 3.27 mmol, 20 eq.) were stirred at 150° C. for 10 minutes, allowed to cool to Rt and diluted with sat. Na2CO3 (10 mL). The resulting suspension was sonicated and filtered. The solid collected was washed with water (3×10mL), iso-propanol (1×5mL), diethyl ether (3×10 mL) and pentane (3×10 mL) to give a light brown powder (14.9 mg, 27% Yield).

reactant | tert-butyl 6-(5-(isoquinolin-1-ylamino)-6-methoxypyridin-3-yl)pyrazin-2-ylmethylcarbamate | 0.16 mmol, 75 mg, 1 eq. | C1(=NC=CC2=CC=CC=C12)NC=1C=C(C=NC1OC)C1=CN=CC(=N1)CNC(OC(C)(C)C)=O | C25H26N6O3
reactant | pyridinium hydrochloride | 3.27 mmol, 378 mg, 20 eq. | Cl.[NH+]1=CC=CC=C1
solvent | Na2CO3 | 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 3-(isoquinolin-1-ylamino)-5-(6-(methylamino)pyrazin-2-yl)pyridin-2(1H)-one | 14.9 mg, 27% Yield | C1(=NC=CC2=CC=CC=C12)NC=1C(NC=C(C1)C1=NC(=CN=C1)NC)=O | C19H16N6O
